US04367228
2-Ethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (2.2 g) was added to a solution of phosphorus pentachloride (2.0 g) in dichloromethane (40 ml) at -10° C., and stirred at -5° C. to -10° C. for 1 hour. After the addition of triethylamine (2.0 g), the resulting mixture was stirred at -5° C. for 5 minutes [Solution A]. N-trimethylsilylacetamide (9.8 g) was added to a stirred suspension of 1-[(7-amino-4-carboxy-3-cephem-3-yl)methyl]pyridinium chloride hydrochloride dihydrate (3.0 g) in dry tetrahydrofuran (60 ml), and the mixture was stirred for 20 minutes at 35° C. to 40° C. To the solution was added the solution A at -10° C. and the resulting solution was stirred at the same temperature for 40 minutes. Water and ethyl acetate were added to the reaction mixture at -10° C. and the separated aqueous layer was washed with ethyl acetate and adjusted to pH 4.0 with 10% aqueous solution of sodium hydroxide. The resulting solution was subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" (Trademark: Prepared by Mitsubishi Chemical Industries) and eluted with 10% aqueous solution of isopropyl alcohol. The fractions containing the object compound were collected and concentrated and lyophilized to give 7-[2-ethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (1.52 g).

reactant | 2-Ethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 2.2 g | C(C)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C8H9N3O4S
reactant | phosphorus pentachloride | 2.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N-trimethylsilylacetamide | 9.8 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | 1-[(7-amino-4-carboxy-3-cephem-3-yl)methyl]pyridinium chloride hydrochloride dihydrate | 3.0 g | O.O.Cl.[Cl-].NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)O)C1=O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
product | 7-[2-ethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 1.52 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C=1N=C(SC1)NC=O | C21H20N6O6S2
